US07582631B2
(S)-{4-[5-(5-Cyclopentyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine
A solution of 120 mg (0.28 mmol) {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine in 3 mL chloroform was treated with 0.25 mL (2.8 mmol) cyclopentanone and 180 mg (0.84 mmol) NaBH3(CN), followed by addition of 5 mL methanol. The mixture was stirred at ambient temperature for 3 h when MS showed that all starting materials had converted to product. The reaction mixture was diluted with 50 mL DCM, washed with 50 mL satd. NaHCO3, and dried over anhydrous Na2SO4. After purification by HPLC, the title compound was obtained. MS (ES+): 480 (M+H)+.

reactant | {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | 0.28 mmol, 120 mg | C12N(CC(NC1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)NC(C)C1=CC=CC=C1 | C24H25N7
reactant | cyclopentanone | 2.8 mmol, 0.25 mL | C1(CCCC1)=O | C5H8O
reactant | methanol | 5 mL | CO | CH4O
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-{4-[5-(5-Cyclopentyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | C1(CCCC1)N1[C@@H]2CN([C@H](C1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1 | C29H33N7
